US07557114B2
(b) 5-chloro-6-fluoro-2-trityl-2,3-dihydro-1H-isoindole
Prepared in analogy to Example A2(b) from 1,2-Bis-bromomethyl-4-chloro-5-fluoro-benzene and triphenylmethylamine. Brown oil.

reactant | 1,2-Bis-bromomethyl-4-chloro-5-fluoro-benzene | BrCC1=C(C=C(C(=C1)F)Cl)CBr | C8H6Br2ClF
reactant | triphenylmethylamine | C1(=CC=CC=C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)N | C19H17N
product | 5-chloro-6-fluoro-2-trityl-2,3-dihydro-1H-isoindole | ClC=1C=C2CN(CC2=CC1F)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C27H21ClFN
